US07935696B2
5-Bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide
Compound a was prepared by coupling 5-bromothiophene-2-carboxylic acid with 3-amino-N-cyclopropyl-4-methylbenzamide hydrochloride (prepared as described in WO04071440) using the method described in Example 2. HPLC Ret time=3.16 min. LCMS [M+H]+ 379.15.

reactant | 5-bromothiophene-2-carboxylic acid | BrC1=CC=C(S1)C(=O)O | C5H3BrO2S
reactant | 3-amino-N-cyclopropyl-4-methylbenzamide hydrochloride | Cl.NC=1C=C(C(=O)NC2CC2)C=CC1C
product | 5-Bromo-N-(5-(cyclopropylcarbamoyl)-2-methylphenyl)thiophene-2-carboxamide | BrC1=CC=C(S1)C(=O)NC1=C(C=CC(=C1)C(NC1CC1)=O)C | C16H15BrN2O2S
